US04968340
Preparation of ethyl 2-(4,6-dimethoxypyrimidin-2-yl)thio2-(1-cyclopentenyl)acetate (Compound No. 318)
10.4 g of 2-mercapto-4,6-dimethoxypyrimidine, 15.0 g of ethyl 2-(1-cyclopentenyl)-2-(methylsulfonyloxy)acetate, 100 ml of N,N-dimethylformamide and 9.2 g of anhydrous potassium carbonate were stirred at 90° C. for 5 hours. The reaction mixture was cooled to room temperature and then diluted with water. The aqueous mixture was extracted with ethyl ether. The ethyl ether extract was washed with water and dried. Then, ethyl ether was removed by distillation under reduced pressure to obtain an yellow oily substance. The yellow oily substance was purified by silica gel column chromatography (eluent: hexane/ethyl acetate =10/1) to obtain 9.7 g of the desired product.

reactant | 2-mercapto-4,6-dimethoxypyrimidine | 10.4 g | SC1=NC(=CC(=N1)OC)OC | C6H8N2O2S
reactant | ethyl 2-(1-cyclopentenyl)-2-(methylsulfonyloxy)acetate | 15.0 g | C1(=CCCC1)C(C(=O)OCC)OS(=O)(=O)C | C10H16O5S
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 9.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | ethyl 2-(4,6-dimethoxypyrimidin-2-yl)thio2-(1-cyclopentenyl)acetate | 9.7 g | COC1=NC(=NC(=C1)OC)SC(C(=O)OCC)C1=CCCC1 | C15H20N2O4S
